US05741792
Alternate Route for Preparation of N-[[1-(Aminoiminomethyl)-4-piperidinyl]methyl]-1-[N-(methylsulfonyl)-D-phenylalanyl]-L-prolinamide
To a suspension of N-methylsulfonyl-D-phenylalanyl-proline (497 mg, 1.46 mmol), 4-(aminomethyl)-1-piperidinecarboximidamide (470 mg, 1.9 mmol) and HOBt (217 mg, 1.6 mmol) in 1:1 v/v isopropyl alcohol/water (4.5 mL) was added NMM (0.32 mL, 2.9 mmol). The homogeneous solution was cooled to 0° C. and ethyl-3-(3-dimethylamino)-propylcarbodiimide·hydrochloride salt (EDAC·HCl) (308 mg, 1.6 mmol) was added. After 18 hr the reaction was concentrated in vacuo, dissolved in water (10 mL) and washed with ether (2×75 mL). Aqueous NaOH (1 N, 3.8 mL) was added until the aqueous layer attained pH 9.7, the aqueous layer was washed with ether (75 mL) and the process repeated. Aqueous HCl (1N, 3.8 mL) was added until the pH reached 2.0, the aqueous layer was washed with ethyl acetate (3×75 mL), concentrated in vacuo, dissolved in water, and lyophilized to give a foam which was subjected to chromatography on HP-20 polystyrene resin to provide the title compound (629 mg, 84%).

reactant | N-methylsulfonyl-D-phenylalanyl-proline | 1.46 mmol, 497 mg | CS(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C15H20N2O5S
reactant | 4-(aminomethyl)-1-piperidinecarboximidamide | 1.9 mmol, 470 mg | NCC1CCN(CC1)C(N)=N | C7H16N4
reactant | HOBt | 1.6 mmol, 217 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 2.9 mmol, 0.32 mL | CN1CCOCC1 | C5H11NO
solvent | isopropyl alcohol water | 4.5 mL | C(C)(C)O.O
product | N-[[1-(Aminoiminomethyl)-4-piperidinyl]methyl]-1-[N-(methylsulfonyl)-D-phenylalanyl]-L-prolinamide | 629 mg, 84% | NN=CN1CCC(CC1)CNC([C@H]1N(CCC1)C([C@H](NS(=O)(=O)C)CC1=CC=CC=C1)=O)=O | C22H34N6O4S
